US03998842
A solution of o-bromophenyl 4,5,6,7-tetrahydro-1H-1,3-diazepin-2-yl ketone (0.7 g.) in dry dimethylformamide (5 ml.) was stirred with potassium carbonate (0.35 g.) and cupric oxide (0.030 g.) at 90°C for 2 hr. under nitrogen. The mixture was diluted with benzene (100 ml.), filtered, washed with water (3 × 50 ml.) and dried over magnesium sulphate. After removal of the solvent under reduced pressure the residue was extracted with hot cyclohexane (ca.150 ml). The extracts slowly crystallised to give the 2,3,4,5-tetrahydro-1,3-diazepino[1,2-a]-indol-11-one as reddish-brown needles (0.179 g.) m.p. 137° - 139°C(dec.). An analytical sample was recrystallised from toluene, m.p. 140° - 141°C(dec.)

reactant | o-bromophenyl 4,5,6,7-tetrahydro-1H-1,3-diazepin-2-yl ketone | 0.7 g | N1C(=NCCCC1)C(=O)C1=C(C=CC=C1)Br | C12H13BrN2O
reactant | potassium carbonate | 0.35 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2,3,4,5-tetrahydro-1,3-diazepino[1,2-a]-indol-11-one | N=1CCCCN2C1C(C=1C=CC=CC21)=O | C12H12N2O
